US06864006B2
A mixture of 25 g of 1,13-tetradecadiene (Aldrich), 44.4 g of triethoxysilane (Shin-Etsu Silicone) and 0.1 mL of 3% xylene solution of a platinum complex of bis((vinyl dimethyl)disiloxane) was stirred at room temperature in a nitrogen atmosphere for 3 days. The resultant reaction mixture was purified by distillation, to obtain 1,14-bis(triethoxysilyl)tetradecane. Its structure was confirmed by NMR.

reactant | 1,13-tetradecadiene | 25 g | C=CCCCCCCCCCCC=C | C14H26
reactant | triethoxysilane | 44.4 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | xylene | 0.1 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1,14-bis(triethoxysilyl)tetradecane | C(C)O[Si](CCCCCCCCCCCCCC[Si](OCC)(OCC)OCC)(OCC)OCC | C26H58O6Si2
